US06653508B2
(1RS)-(2RS)-2-benzyl-1-(3-methoxyphenyl)-N,N-dimethylpropan-1,3-diamine hydrochloride
The synthesis was carried out up to the third stage according to Example 1. 2-benzyl-3-dimethylamino-1-(3-methoxyphenyl)-propan-1-one hydrochloride was then converted with hydroxylamine hydrochloride to the corresponding oxime. For this purpose 5 g (0.015 mole) of 2-benzyl-3-dimethylamino-1-(3-methoxyphenyl)-propan-1-one with 2.1 g (0.03 mole) of hydroxylamine hydrochloride were dissolved in 15 ml of water and 20 ml of ethanol. The reaction time was 5 minutes and the yield of oxime was 1.7 g (33%).

reactant | 2-benzyl-3-dimethylamino-1-(3-methoxyphenyl)-propan-1-one hydrochloride | Cl.C(C1=CC=CC=C1)C(C(=O)C1=CC(=CC=C1)OC)CN(C)C
reactant | hydroxylamine hydrochloride | Cl.NO
reactant | 2-benzyl-3-dimethylamino-1-(3-methoxyphenyl)-propan-1-one | 0.015 mole, 5 g | C(C1=CC=CC=C1)C(C(=O)C1=CC(=CC=C1)OC)CN(C)C | C19H23NO2
reactant | hydroxylamine hydrochloride | 0.03 mole, 2.1 g | Cl.NO
solvent | water | 15 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (1RS)-(2RS)-2-benzyl-1-(3-methoxyphenyl)-N,N-dimethylpropan-1,3-diamine hydrochloride | Cl.C(C1=CC=CC=C1)C(C(N(C)C)C1=CC(=CC=C1)OC)CN | InChI=1S/C19H26N2O.ClH/c1-21(2)19(16-10-7-11-18(13-16)22-3)17(14-20)12-15-8-5-4-6-9-15;/h4-11,13,17,19H,12,14,20H2,1-3H3;1H
